US05106842
4-Methyl-3-(tri-n-butylstannyl)cyclobut-3-ene-1,2-dione (V4)
2,2-Ethylenedioxy-4-methyl-3-(tri-n-butylstannyl)cyclobut-3-ene-1-one (450 mg) was added to a stirred mixture of tetrahydrofuran (4 mL) and sulfuric acid-H2O (3 mL of 1:1). The mixture was stirred at 22° C. for 2.5 hrs and then was diluted with H2O. The mixture was extracted with n-heptane (2×). The combined extracts were sequentially washed with H2O (2×) and saturated NaCl, dried (Na2SO4), and concentrated to leave the title compound (145 mg, 36% yield) as a yellow oil.

reactant | 2,2-Ethylenedioxy-4-methyl-3-(tri-n-butylstannyl)cyclobut-3-ene-1-one | 450 mg | C1OC2(C(C(=C2[Sn](CCCC)(CCCC)CCCC)C)=O)OC1
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | sulfuric acid H2O | 3 mL | S(O)(O)(=O)=O.O
solvent | H2O | O | H2O
product | 4-Methyl-3-(tri-n-butylstannyl)cyclobut-3-ene-1,2-dione | 145 mg, 36% yield | CC1=C(C(C1=O)=O)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H3O2.3C4H9.Sn/c1-3-2-4(6)5(3)7;3*1-3-4-2;/h1H3;3*1,3-4H2,2H3;
